US07662972B2
Step 2: Production of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-trifluoromethyl benzoic acid methyl ester
In a solution of 0.51 g of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-iodo benzoic acid methyl ester in 5 ml of N,N-dimethylformamide, 0.18 g of copper (I) iodide, 0.06 g of potassium fluoride and 0.27 g of chlorodifluoro acetic acid methyl ester were added, and stirred at 120° C. for 5 hours. After the completion of the reaction, the reaction mixture was left and cooled to room temperature, 50 ml of water was added and extracted with ethyl acetate (50 ml×2). The organic phase was washed with water, dehydrated with saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluated with ethyl acetate-hexane (1:4), and 0.45 g of the aimed product was obtained as pale yellow oily substance.

reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-iodo benzoic acid methyl ester | 0.51 g | COC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)I)=O | C18H11Cl2F3INO3
reactant | potassium fluoride | 0.06 g | [F-].[K+]
reactant | chlorodifluoro acetic acid methyl ester | 0.27 g | COC(C(F)(F)Cl)=O | C3H3ClF2O2
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | copper (I) iodide | 0.18 g | [Cu]I
product | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-trifluoromethyl benzoic acid methyl ester | 0.45 g | COC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C(F)(F)F)=O | C19H11Cl2F6NO3
